US08349849B2
Ethyl 2-(6-heptyloxyquinolin-2-yl)-2-nitropropanoate
A solution of 6-Heptyloxy-quinoline 1-oxide (500 mg, 0.002 mol) and acetic anhydride (0.255 mL, 0.00270 mol) in N,N-dimethylformamide (5 mL, 0.06 mol) was added to a solution of ethyl 2-nitropropionate (284 mg, 0.00193 mol) in DMF (2 mL) at at 23° C. dropwise. The reaction mixture was then stirred at 23° C. for 12 hours. The reaction mixture was then heated at 50° C. for 6 hours. Solvent was removed under vacuum, and the residue was treated with Na2CO3 (sat), and DCM. Organic layer was collected, and dried over Na2SO4. The mixture was then purified via chromatography (SiO2, 24 g, ethyl acetate/hexanes 0-35%) to give a pure product 523 mg (70%). 1H NMR (CHLOROFORM-d) δ: 8.09 (d, J=8.5 Hz, 1H), 7.95 (d, J=9.0 Hz, 1H), 7.52 (d, J=8.8 Hz, 1H), 7.39 (dd, J=9.3, 2.5 Hz, 1H), 7.08 (d, J=2.5 Hz, 1H), 4.40 (q, J=7.0 Hz, 2H), 4.09 (t, J=6.5 Hz, 2H), 2.40 (s, 3H), 1.82-1.93 (m, 2H), 1.45-1.56 (m, 2H), 1.26-1.44 (m, 9H), 0.92 (t, J=6.7 Hz, 3H). MS (M+1): 389.30.

reactant | 6-Heptyloxy-quinoline 1-oxide | 0.002 mol, 500 mg | C(CCCCCC)OC=1C=C2C=CC=[N+](C2=CC1)[O-] | C16H21NO2
reactant | acetic anhydride | 0.00270 mol, 0.255 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl 2-nitropropionate | 0.00193 mol, 284 mg | [N+](=O)([O-])C(C(=O)OCC)C | C5H9NO4
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | N,N-dimethylformamide | 0.06 mol, 5 mL | CN(C=O)C | C3H7NO
product | Ethyl 2-(6-heptyloxyquinolin-2-yl)-2-nitropropanoate | 523 mg, 70% | C(CCCCCC)OC=1C=C2C=CC(=NC2=CC1)C(C(=O)OCC)(C)[N+](=O)[O-] | C21H28N2O5
